US07238808B2
4-Bromo-N-(2-hydroxy-ethyl)-benzenesulfonamide
Prepared by general procedure III from 4-bromobenzenesulfonyl chloride (5.0 g, 20 mmol) and ethanolamine (1.32 g, 22 mmol) to give the title compound (5.4 g, 98%) as an off-white solid. MS (ISP) 280.0 [(M+H)+].

reactant | 4-bromobenzenesulfonyl chloride | 20 mmol, 5.0 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | ethanolamine | 22 mmol, 1.32 g | C(O)CN | C2H7NO
product | 4-Bromo-N-(2-hydroxy-ethyl)-benzenesulfonamide | 5.4 g, 98% | BrC1=CC=C(C=C1)S(=O)(=O)NCCO | C8H10BrNO3S
